US06790865B2
To a stirred solution of ethyl 2-[4-(2-hydroxyethyl)-phenoxy]-2-methylpropionate (474 mg) and triphenylphosphine (591 mg) in dichloromethane (10 ml) was added carbon tetrabromide (748 mg) under ice-cooling, and the mixture was stirred for 40 minutes. Rough purification of the reaction mixture by flash column chromatography on silica gel (eluent: diethylether) and further purification of the fraction by medium pressure liquid column chromatography on silica gel (eluent: hexane/diethyl ether=10/1) gave ethyl 2-[4-(2-bromoethyl)phenoxy]-2-methylpropionate (500 mg). 1H-NMR (CDCl3) δ ppm: 1.25 (3H, t, J=7.1 Hz), 1.59 (6H, s), 3.09 (2H, t, J=7.8 Hz), 3.52 (2H, t, J=7.8 Hz), 4.23 (2H, q, J=7.1 Hz) 6.79 (2H, d, J=8.7 Hz), 7.07 (2H, d, J=8.7 Hz)

reactant | ethyl 2-[4-(2-hydroxyethyl)-phenoxy]-2-methylpropionate | 474 mg | OCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H20O4
reactant | triphenylphosphine | 591 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 748 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | ethyl 2-[4-(2-bromoethyl)phenoxy]-2-methylpropionate | 500 mg | BrCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H19BrO3
